US07947689B2
3,4-Dimethyl-6,7-dihydro-thieno[3,2-c]pyridine
In close analogy to the procedure described above, N-[2-(4-Methyl-thiophen-2-yl)-ethyl]-acetamide is reacted with phosphorus pentoxide to provide the title compound.

reactant | N-[2-(4-Methyl-thiophen-2-yl)-ethyl]-acetamide | CC=1C=C(SC1)CCNC(C)=O | C9H13NOS
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 3,4-Dimethyl-6,7-dihydro-thieno[3,2-c]pyridine | CC1=CSC2=C1C(=NCC2)C | C9H11NS
